US04504665
The process according to claim 4 wherein 2-chloronicotinic acid is produced by reacting 2-chloro-3-trifluoromethyl pyridine with aluminum chloride to obtain 2-chloro-3-trichloromethyl pyridine and then hydrolyzing the 2-chloro-3-trichloromethyl pyridine in the presence of sulfuric acid or phosphoric acid.

reactant | 2-chloronicotinic acid | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 2-chloro-3-trifluoromethyl pyridine | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2-chloro-3-trichloromethyl pyridine | ClC1=NC=CC=C1C(Cl)(Cl)Cl | C6H3Cl4N
